US08378104B2
A solution of phenylboronic acid (35.0 mg, 287 μmol), tert-butyl 4-[4-(7-amino-3-chlorofuro[2,3-c]pyridin-4-yl)-1H-pyrazol-1-yl]piperidine-1-carboxylate (65 mg, 144 μmol), (1,1′-bis(diphenylphosphino)ferrocene)palladium dichloride (10.5 mg, 14.4 μmol), potassium carbonate (29.8 mg, 216 μmol) in 1,4-dioxane (785 μL) and H2O (259 μL) was evacuated and filled with argon three times. The mixture was irradiated in a microwave reactor at 100° C. for 40 min. The reaction mixture was partitioned between EtOAc and brine/water and separated. The aqueous layer was extracted with EtOAc (3×) and the combined organic extracts were washed with brine, dried over sodium sulfate, filtered, and concentrated. The residue was purified by flash chromatography (60 to 100% EtOAc:hexanes) to afford tert-butyl 4-[4-(7-amino-3-chloro-2-phenylfuro[2,3-c]pyridin-4-yl)-1H-pyrazol-1-yl]piperidine-1-carboxylate. MS (ESI): 494.16 [M+H]+; HPLC tR=3.11 min.

reactant | phenylboronic acid | 287 μmol, 35.0 mg | C1(=CC=CC=C1)B(O)O | C6H7BO2
reactant | tert-butyl 4-[4-(7-amino-3-chlorofuro[2,3-c]pyridin-4-yl)-1H-pyrazol-1-yl]piperidine-1-carboxylate | 144 μmol, 65 mg | NC=1N=CC(=C2C1OC=C2Cl)C=2C=NN(C2)C2CCN(CC2)C(=O)OC(C)(C)C | C20H24ClN5O3
reactant | potassium carbonate | 216 μmol, 29.8 mg | C([O-])([O-])=O.[K+].[K+]
solvent | 1,4-dioxane | 785 μL | O1CCOCC1 | C4H8O2
solvent | H2O | 259 μL | O | H2O
product | tert-butyl 4-[4-(7-amino-3-chloro-2-phenylfuro[2,3-c]pyridin-4-yl)-1H-pyrazol-1-yl]piperidine-1-carboxylate | NC=1N=CC(=C2C1OC(=C2Cl)C2=CC=CC=C2)C=2C=NN(C2)C2CCN(CC2)C(=O)OC(C)(C)C | C26H28ClN5O3
